US07723538B2
4-[3-(3-Fluoro-benzenesulfonylamino)-benzoylamino]-benzoic acid, MS (ISP): m/e=413.1 (M−H), was prepared in analogy to example 1, steps A to D. Step C was performed using 3-fluoro-benzensulfonyl chloride and yielded 4-[3-(3-fluoro-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[3-(3-Fluoro-benzenesulfonylamino)-benzoylamino]-benzoic acid | FC=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC1 | C20H15FN2O5S
reactant | 3-fluoro-benzensulfonyl chloride | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
product | 4-[3-(3-fluoro-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)F)=O)=O | C22H19FN2O5S
